US08211884B2
A mixture of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (1.0 g, 3.90 mmol), methylene chloride (50 mL), and a catalytic amount of DMF was stirred under argon, and oxalyl chloride (2M in methylene chloride, 2 mL, 4.0 mmol) was dripped into the mixture over 5 min. The mixture was stirred at room temperature for 1.0 hr and the reaction was concentrated to dryness. Benzene was added and the solution was evaporated to dryness again. The white-yellow solid was re-dissolved in methylene chloride (30 mL) and dripped, under argon, into a solution of 4-(4-amino-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (1.2 g, 4.0 mmol), and triethylamine (0.6 g, 5.8 mmol) in methylene chloride (50 mL). The reaction was stirred at room temperature for 0.5 hr then concentrated and the residue was taken up in EtOAc (100 mL) and washed with saturated ammonium chloride (100 mL), brine (100 mL) and dried with anhydrous sodium sulfate. The solvent was removed and the residue was purified on a flash column chromatography with EtOAc/hexanes to afford 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester (1.65 g, 83% yield) as a white solid. ES-MS for C27H29F3N4O4 calcd. (m/e) 530, observed 531 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 3.90 mmol, 1.0 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | oxalyl chloride | 4.0 mmol, 2M, 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-amino-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 4.0 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=CC=C(C=C1)N | C16H25N3O2
reactant | triethylamine | 5.8 mmol, 0.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.65 g, 83% yield | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C27H29F3N4O4
